US09370522B2
DMF (2 mL) was added dropwise with stirring to a solution of 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid (137.2 mg, 0.33 mmol, 1.00 equiv) in thionyl chloride (12 mL), stirred at reflux for 3 h in an oil bath, then concentrated under vacuum. The residue was dissolved in acetonitrile (10 mL), and added dropwise to a solution of ammonia (2 g) in acetonitrile (10 mL) at 0° C. The resulting mixture was stirred for overnight at room temperature. The reaction mixture was concentrated under vacuum and purified via Prep-HPLC affording 16 mg (12%) of 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonamide as a light yellow solid.

reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid | 0.33 mmol, 137.2 mg, 1.00 equiv | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)S(=O)(=O)O | C22H18N2O5S
solvent | thionyl chloride | 12 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonamide | 16 mg, 12% | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)S(=O)(=O)N | C22H19N3O4S
